US07981888B2
5-fluoro-1-(3-(1-naphthyloxy)propyl)-3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1H-indole-2-carboxylic acid
A mixture of 1,3,5-trimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (43.2 mg), ethyl 3-bromo-5-fluoro-1-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate (The synthesis of this compound was described in EXAMPLE 134B as an intermediate) (43 mg), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (15.01 mg) and K3PO4 (58.2 mg) in toluene (2.1 ml) was heated in a microwave reactor (CEM Discover) at 110° C. for 2 hours. The reaction was directly loaded into a silica cartridge, and eluted with 0%-25% ethyl acetate in dichloromethane. The collected desired ester was hydrolyzed with NaOH in tetrahydrofuran-methanol-H2O at 50° C. overnight to provide the title compound. 1H NMR (400 MHz, dimethyl sulfoxide-d6) δ 8.15 (d, J=8.90 Hz, 1H), 7.86 (d, J=7.36 Hz, 1H), 7.71 (dd, J=9.21, 4.30 Hz, 1H), 7.42-7.56 (m, 3H), 7.32-7.41 (m, 1H), 7.05-7.16 (m, 1H), 6.92 (dd, J=9.36, 2.61 Hz, 1H), 6.86 (d, J=7.36 Hz, 1H), 4.69-5.00 (m, 2H), 4.17 (t, J=5.83 Hz, 2H), 3.72 (s, 3H), 2.27-2.43 (m, 2H), 1.99 (s, 3H), 1.90 (s, 3H).

reactant | 1,3,5-trimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 43.2 mg | CN1N=C(C(=C1C)B1OC(C(O1)(C)C)(C)C)C | C12H21BN2O2
reactant | ethyl 3-bromo-5-fluoro-1-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate | BrC1=C(N(C2=CC=C(C=C12)F)CCCOC1=CC=CC2=CC=CC=C12)C(=O)OCC | C24H21BrFNO3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 15.01 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 58.2 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2.1 ml | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-1-(3-(1-naphthyloxy)propyl)-3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1H-indole-2-carboxylic acid | FC=1C=C2C(=C(N(C2=CC1)CCCOC1=CC=CC2=CC=CC=C12)C(=O)O)C=1C(=NN(C1C)C)C | C28H26FN3O3
